US04551279
Preparation of 2-(N-methyl)aminobenzoic acid
A solution of 2-aminobenzoic acid (25 g) in ethanol (300 ml) reacted with an excess of paraformaldehyde and then reduced with hydrogen gas at 60 psi over platinum oxide (25 g) catalyst. After hydrogen uptake ceased, the mixture was filtered and the solvent removed on a rotary evaporator. The product was purified by chromatography on silica gel and the structure confirmed by nmr and infrared analysis.

reactant | 2-aminobenzoic acid | 25 g | NC1=C(C(=O)O)C=CC=C1 | C7H7NO2
reactant | paraformaldehyde | C=O | CH2O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | platinum oxide | 25 g | [Pt]=O
product | 2-(N-methyl)aminobenzoic acid | CNC1=C(C(=O)O)C=CC=C1 | C8H9NO2
